US04051254
3-methyl-4-(chlorodifluoroacetamido)phenyl N-methylcarbamate
According to general procedures outlined above, 3-methyl-4-aminophenyl N-methylcarbamate (2.3g., 0.0128 mole) was reacted with chlorodifluoroacetyl chloride (2.1g., 0.014 mole) in the presence of triethylamine (1.4g., 0.014 mole) and benzene. The product was a light tan solid (1.6g., m.p. 156°-58.5° C.).

reactant | 3-methyl-4-aminophenyl N-methylcarbamate | 0.0128 mole, 2.3g | CNC(OC1=CC(=C(C=C1)N)C)=O | C9H12N2O2
reactant | chlorodifluoroacetyl chloride | 0.014 mole, 2.1g | ClC(C(=O)Cl)(F)F | C2Cl2F2O
reactant | triethylamine | 0.014 mole, 1.4g | C(C)N(CC)CC | C6H15N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-methyl-4-(chlorodifluoroacetamido)phenyl N-methylcarbamate | CNC(OC1=CC(=C(C=C1)NC(C(F)(F)Cl)=O)C)=O | C11H11ClF2N2O3
